US07160882B2
c) 1-(2-{1-[2-(5-benzyloxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-2-hydroxy-ethylamino]-cyclopropyl}-ethyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one
900 mg (2.5 mmol) 5-benzyloxy-8-(2-ethoxy-2-hydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one and 700 mg (2.7 mmol) 1-[2-(1-amino-cyclopropyl)-ethyl]-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one are dissolved in 20 mL ethanol and stirred in each case for 30 minutes at 80° C. and 50° C. The reaction mixture is cooled, combined with 200 mg (5.3 mmol) sodium borohydride and stirred for 2 hours at ambient temperature. Glacial acetic acid is added, the mixture is stirred for 10 minutes and evaporated down. The residue is taken up in dichloromethane and washed successively with potassium hydrogen sulphate solution, 15% potassium carbonate solution and sodium hydrogen carbonate solution. Then the organic phase is dried with sodium sulphate and freed from solvent. The residue is purified by column chromatography (silica gel; ethyl acetate/methanol/ammonia gradient). Recrystallisation from diisopropylether. White solid.

reactant | 5-benzyloxy-8-(2-ethoxy-2-hydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one | 2.5 mmol, 900 mg | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(CO2)=O)C(C(O)OCC)=O | C19H19NO6
reactant | 1-[2-(1-amino-cyclopropyl)-ethyl]-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | 2.7 mmol, 700 mg | NC1(CC1)CCN1C(OC(C2=C1C=CC=C2)(C)C)=O | C15H20N2O2
reactant | sodium borohydride | 5.3 mmol, 200 mg | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1-(2-{1-[2-(5-benzyloxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-2-hydroxy-ethylamino]-cyclopropyl}-ethyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(CO2)=O)C(CNC2(CC2)CCN2C(OC(C1=C2C=CC=C1)(C)C)=O)O | C32H35N3O6
